US04568677
2-Amino-6-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-pyrimidone
A solution of ethyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate (0.74 g), 1,5-diazabicyclo[4.3.0]non-5-ene (0.25 g) and guanidine hydrochloride (0.14 g) in ethanol (30 ml) was heated under reflux for 5.5 hours and then evaporated. The residue was dissolved in chloroform and the solution washed successively with water, 10% aqueous sodium carbonate solution and water, dried over anhydrous magnesium sulphate and evaporated. The residue was triturated with ethyl acetate and the resulting precipitate collected, washed thoroughly with diethyl ether, recrystallized from ethyl acetate/ethanol and dried to give the title compound (0.20 g), m.p. 222°-225° C. Found: C,52.10; H,4.56; N,10.54. C23H24Cl2N4O6 requires C,52.78; H,4.62; N,10.70%.

reactant | ethyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate | 0.74 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CC(=O)OCC)=O)C(=O)OCC | C24H27Cl2NO8
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 0.25 g | N12CCCN=C2CCC1 | C7H12N2
reactant | guanidine hydrochloride | 0.14 g | Cl.NC(=N)N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Amino-6-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-pyrimidone | 0.20 g | NC1=NC(=CC(N1)=O)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C23H24Cl2N4O6
